### PR TITLE
Prove 4.5, pre 4.6 and 4.6 in WeakConvergenceCDF.lean

### LINKED ISSUE #17: Lemma 4.5 (continuous-function-approximation-subdivision): Prove `forall_exists_subdivision_dist_apply_lt_of_dense_of_continuous`
Prove `forall_exists_subdivision_dist_apply_lt_of_dense_of_continuous` (Lemma 4.5 _continuous-function-approximation-subdivision_ in blueprint).

### LINKED ISSUE #18: Preliminary to Lemma 4.6 (simple-integral-cdf-difference): Prove `CumulativeDistributionFunction.integral_indicator_eq`
Prove `CumulativeDistributionFunction.integral_indicator_eq` (the key step for Lemma 4.6 _simple-integral-cdf-difference_ in blueprint).

### LINKED ISSUE #19: Preliminary to Lemma 4.6 (simple-integral-cdf-difference): Prove CumulativeDistributionFunction.integral_indicator_eq
Prove `CumulativeDistributionFunction.integral_indicator_eq`, the key step for Lemma 4.6 _simple-integral-cdf-difference_ in the blueprint.

### PR DESCRIPTION
**Pull request by pkulikov239**
close #17, close #18, close #19;

### CODE REVIEW

File: ExtremeValueProject/WeakConvergenceCDF.lean [hunk 1]
```diff
@@ -38,15 +38,61 @@ lemma forall_exists_subdivision_dist_apply_lt_of_dense_of_continuous {D : Set 
...
     {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E]
     {κ : Type*} {s : Finset κ} {a b : ℝ} (a_le_b : a ≤ b) (α : E) :
     ∫ x, (indicator (Ioc a b) (fun _ ↦ α)) x ∂ F.measure =
       (F b - F a) • α := by
-  sorry -- **Issue #19**
+  have h_meas : MeasurableSet (Ioc a b) := measurableSet_Ioc
+  rw [MeasureTheory.integral_indicator h_meas, MeasureTheory.integral_const]
+  have h_cdf : F.measure (Ioc a b) = ENNReal.ofReal (F b - F a) := StieltjesFunction.measure_Ioc F.toStieltjesFunction a b
+  refine Mathlib.Tactic.LinearCombination.smul_eq_const ?_ α
+  rw [MeasureTheory.Measure.real, MeasureTheory.Measure.restrict_apply_univ]
```
Comment (kkytola) [inline ExtremeValueProject/WeakConvergenceCDF.lean:94]: There was an error with this line in the project's version of Mathlib. The following fixes it:

```suggestion
  rw [MeasureTheory.Measure.restrict_apply_univ]
```

File: ExtremeValueProject/WeakConvergenceCDF.lean [hunk 2]
```diff
@@ -57,7 +103,17 @@ lemma CumulativeDistributionFunction.integral_sum_indicator_eq (F : CumulativeDi
...
+    rw [← MeasureTheory.integral_finset_sum]
+    simp_all only [measurableSet_Ioc, implies_true, Finset.sum_apply, MeasureTheory.integral_indicator_const]
+    intro j _
+    exact (MeasureTheory.integrable_const (α j)).indicator measurableSet_Ioc
+  rw [h_int_sum_change]
+  congr
+  ext j
+  apply CumulativeDistributionFunction.integral_indicator_eq
+  exact s
+  exact h j
```
Comment (kkytola) [inline ExtremeValueProject/WeakConvergenceCDF.lean:116]: Sorry --- I had accidentally left some completely irrelevant arguments in the previous lemma statements, which made this part way messire than it needed to be. With the fixes above, the following should work:

```suggestion
  exact F.integral_indicator_eq (h j) _
```

File: ExtremeValueProject/WeakConvergenceCDF.lean [hunk 3]
```diff
@@ -38,15 +38,61 @@ lemma forall_exists_subdivision_dist_apply_lt_of_dense_of_continuous {D : Set 
...
+    have h_dist_xy : dist x y < δ := by
+      have h_bound : dist x y ≤ cs i.succ - cs i := by exact Real.dist_le_of_mem_Icc hx hy
+      exact lt_of_le_of_lt h_bound (h_cs_diff i)
+    exact hδ x hx_I y hy_I h_dist_xy
+  exact ⟨k, cs, h_cs_0, h_cs_last, h_cs_mono, h_cs_D, h_cs_bound⟩
 
 /-- Preliminary to Lemma 4.6 (simple-integral-cdf-difference) in blueprint. -/
 lemma CumulativeDistributionFunction.integral_indicator_eq (F : CumulativeDistributionFunction)
     {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E]
     {κ : Type*} {s : Finset κ} {a b : ℝ} (a_le_b : a ≤ b) (α : E) :
```
Comment (kkytola) [inline ExtremeValueProject/WeakConvergenceCDF.lean:87]: I'm very sorry! The `CompleteSpace E` assumption was missing and some totally unnecessary variables very included in my original lemma statement. This must have made the lemma really clumsy to use, too. Apologies!

```suggestion
    {E : Type*} [NormedAddCommGroup E] [NormedSpace ℝ E] [CompleteSpace E]
    {a b : ℝ} (a_le_b : a ≤ b) (α : E) :
```

File: ExtremeValueProject/WeakConvergenceCDF.lean [hunk 4]
```diff
@@ -38,15 +38,61 @@ lemma forall_exists_subdivision_dist_apply_lt_of_dense_of_continuous {D : Set 
...
+  let I : Set ℝ := Icc a b
+  have hI_compact : IsCompact I := isCompact_Icc
+  have hI_nonempty : I.Nonempty := nonempty_Icc.mpr (le_of_lt a_lt_b)
+  have hf_cont_I : ContinuousOn f I := by exact Continuous.continuousOn f_cont
+  have hf_unif_cont : UniformContinuousOn f I := hI_compact.uniformContinuousOn_of_continuous hf_cont_I
+  have h_δ : ∃ δ > 0, ∀ x ∈ I, ∀ y ∈ I, dist x y < δ → dist (f x) (f y) < ε := by
+    rw [Metric.uniformContinuousOn_iff] at hf_unif_cont
+    specialize hf_unif_cont ε
+    apply hf_unif_cont
+    exact ε_pos
```
Comment (kkytola) [inline ExtremeValueProject/WeakConvergenceCDF.lean:50]: Just combining the steps to a one-liner (in my opinion without loss of clarity):
```suggestion
    exact hf_unif_cont ε ε_pos
```

File: ExtremeValueProject/WeakConvergenceCDF.lean [hunk 5]
```diff
@@ -38,15 +38,61 @@ lemma forall_exists_subdivision_dist_apply_lt_of_dense_of_continuous {D : Set 
...
+    have hx_I : x ∈ I := by
+      unfold I
+      have h_lower : a ≤ cs i := by
+        rw [← h_cs_0]
+        apply h_cs_mono
+        apply Fin.zero_le
+      have h_upper : cs i.succ ≤ b := by
+        rw [← h_cs_last]
+        apply h_cs_mono
+        exact Fin.le_last i.succ
```
Comment (kkytola) [inline ExtremeValueProject/WeakConvergenceCDF.lean:65]: Combining steps to a shorter proof here can in my opinion be done here without sacrificing clarity.

```suggestion
      have h_lower : a ≤ cs i := by simpa [← h_cs_0] using h_cs_mono (Fin.zero_le _)
      have h_upper : cs i.succ ≤ b := by simpa [← h_cs_last] using h_cs_mono (Fin.le_last i.succ)
```

**Comment by pkulikov239** [comment]
Thank you very much! I have just accepted the suggestions. 

And my apologies, I completely forgot to tell you yesterday that `CompleteSpace` hypothesis is necessary, at least from my calculations. Perhaps, the hypothesis is needed in the following lemmas and theorems as well, since they all use the previous lemmas in which it is necessary.

**Comment by pkulikov239** [comment]
Thank you very much! I have just accepted the suggestions.

And my apologies, I completely forgot to tell you yesterday that `CompleteSpace` hypothesis is necessary, at least from my calculations. Perhaps, the hypothesis is needed in the following lemmas and theorems as well, since they all use the previous lemmas in which it is necessary.
